US06379930B1
Step 1. Synthesis of 1-Octadecyloxy-3-benzyloxy-2-aminopropane
A solution of 2-amino-1,3-propanediol in THF is added dropwise with vigorous stirring to a suspension of sodium hydride over a period of 45 minutes to 2 hrs. The reaction mixture is stirred at room temperature for an additional hr and sequentially treated with a solution of one equivalent each of octadecyl bromide and benzyl bromide, respectively. The reaction mixture is stirred at room temperature for 4-14 hrs. The reaction mixture is worked up by extraction with methylene chloride. The methylene chloride layer is washed with water (3×50 mL), saturated NaCl (1×50 mL) and dried (MgSO4). The dried organic layer is evaporated under vacuum to afford the product as a white solid.

reactant | 2-amino-1,3-propanediol | NC(CO)CO | C3H9NO2
reactant | sodium hydride | [H-].[Na+]
reactant | octadecyl bromide | one equivalent | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | C1CCOC1 | C4H8O
product | 1-Octadecyloxy-3-benzyloxy-2-aminopropane | C(CCCCCCCCCCCCCCCCC)OCC(COCC1=CC=CC=C1)N | C28H51NO2
